Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
ibuprofen / amoxicillin / Bactrim
 
Attending: ___.
 
Chief Complaint:
"So, I don't know where to start."
 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
HPI from ED consult note dated ___ by Dr. ___:

___ is a ___ yo F college student at ___ who
was sent to the ED on a section by her outpatient psychiatrist
after she reported to him taking twenty 50 mg zoloft tablets and
one 2.5 mg tablet of Olanzapine. In the ED, she was given IV
fluids and observed, found by toxicology consult to have mild
serotonin syndrome. 

Pt reports "not doing well lately." She describes a month of
escalating anxiety, inability to eat food without vomiting,
depressive symptoms and urges to cut herself. Pt reports missing
classes because "she could not get out of bed" and estimating a
3.5 GPA, which is lower than what she thinks she can achieve.
Yesterday, she reports waking up and thinking "I don't want to
live anymore." She tried to distract herself from these thoughts
by spending time with friends. She went to worship night at a
church she attends. At church, she prayed and reports "hearing
God tell me 'I know you want to die tonight but I won't let
you.'" She was supposed to go to a friend's place, but decided 
to
go home instead, where she knew she would be alone. She thought
"I should just take all my medications." She took all of her
remaining Zoloft and Olanzapine and got into bed. After taking
the pills, she got a phone call from a friend but did not tell
the friend what she had done. She states she had looked up how 
to
overdose on Zoloft online and had seen that she likely did not
have enough medication to kill herself, "but it was what I had
and I was being impulsive." She remembers thinking that if she
woke up tomorrow she would go to her psychiatrist in the morning
and tell him what had happened. 

When asked if she regrets taking the pills, she states she feels
guilty for making her friends sad, and she knows her friends
would be even more upset if she did kill herself. She states "I
feel like I made a huge mess and now I have to figure out how to
put my life back together. She states she thinks she still has
potential "to live a really productive life if my brain wasn't
this way all the time." Pt states she has been open with friends
about how poorly she has been doing and has been spending each
night with a different friend, but states she is starting to 
feel
like a burden. She did not share with anyone that she had been
having suicidal thoughts. 

Pt reports a prior overdose at age ___ (took promethazine
codeine)after the death of her friend. She states she spent 
three
days in an inpatient unit and was required to see a therapist 
for
several months after that, but did not find this helpful because
"most of what I was responding to was situational and the
therapist couldn't help with that." Pt reports cutting while in
middle school.

After being started on Zoloft 1.5 weeks ago, pt reports an
episode of "Feels like I am on top of the world, talking fast,
pacing and having thoughts are rushing through my brain." Pt
reports her psychiatrist told her to stop taking zoloft and gave
her several days of olanzapine after she presented to an
appointment one week ago in this state. She reports the state
lasted "one or two days." Pt reports previous similar epsiodes
throughout her life, but does not think they lasted more than a
day each time…

…Pt reports lack of energy, low mood, hopelessness, low self
esteem,  tearfulness, apathy, decreased appetite, and increased
sleep, anxiety with nausea 

COLLATERAL

Dr. ___, ___

Pt presented to schedule appointment this morning and told him
she took a three week supply of Zoloft and one Olanzapine. She
was tremulous but had no other obvious symptoms. He first saw 
her
1.5 weeks ago when she presented for anxiety and he started her
on Zoloft. Last week, she presented with symptoms concerning for
mania (pacing back and forth in the room, reporting racing
thoughts) and so he discontinued the Zoloft and gave her two
doses of 2.5 mg Olanzapine. When she presented this morning, he
became concerned for her safety and sent her to the ED on a
section. He states pt is  amenable to inpatient stay, which he
recommends.
 
He reports the patient also has an active eating disorder and he
does not think she has been eating very much."

 
Past Medical History:
PAST PSYCHIATRIC HISTORY [Per ED consult note dated ___ by
Dr. ___, reviewed with patient and updated as
appropriate]:
- Past diagnoses: Anxiety, Restrictive-Type Eating Disorder with
functional GI symptoms (denies intentional purging); has
exhibited symptoms of hypomania/mania recently in the setting of
SSRI initiation.
- Hospitalizations: 3-day admission at age ___ following an
overdose.
- Psychiatrist & Therapist: Dr. ___ ___, no current 
therapist.
- Medication and ECT trials: None prior to sertraline and
olanzapine.
- Self-injury/Suicide attempts: SA by overdose at age ___, remote
history of cutting behavior.
- Trauma: reports physical and emotional abuse from mother
growing up; reports date rape one year ago with some flashbacks
and nightmares.

PAST MEDICAL HISTORY [Per ED consult note dated ___ by Dr.
___, reviewed with patient and updated as appropriate]:
- IUD placed in ___.

 
Social History:
SOCIAL HISTORY [Per ED consult note dated ___ by Dr. ___:
     "Pt grew up with mom and her boyfriend in ___. Parents separated at age ___. "Not a great childhood"
with frequent conflict with mom, who would spank her and once 
hit
her hard enough "for the police to get involved." Pt was kicked
out of home after elementary school and went to live w father in
___ for a summer who was still experiencing delusions ___
schizophrenia "he wasn't mentally stable..we watched a lot of
conspiracy videos." She reports being lcose with her mom than 
her
dad but "mom doesn't understand depression or anxiety, my 
stepdad
is more helpful." Pt reports doing very well in school growing 
up
and purposefully applied to schools in the ___ for college
so she could escape her parents. She is studying ___
___ and ___ and hopes to have a career working with
___. Pt now texts her mom once a day. Her father is flying
to ___ to spend ___ with her. She reports her
relationships with both parents is now improved but
"superficial." She reports her father is "more stable now." He
primary social support are her college friends and childhood 
best
friend ___ who was just visiting her because she wasn't doing
well."

SUBSTANCE ABUSE HISTORY: Reports drinking alcohol ___ per 
month,
endorses rare cannabis use (less than once per month). Denies
tobacco and other drug use.

 
Family History:
FAMILY PSYCHIATRIC HISTORY [Per ED consult note dated ___ 
by
Dr. ___, reviewed with patient and updated as
appropriate]:
- Fam Dx: father, paternal grandmother and paternal cousin with
schizophrenia, mother with depression, maternal grandfather with
___.
- Fam Hx Suicide: Father with suspected suicide attempt.
 
Physical Exam:
PHYSICAL EXAMINATION: 
 VS: 98.5  124/78  88  20  99% 
 General: NAD
  HEENT: PERRL, MMM, OP clear.
  Neck: Supple. No adenopathy or thyromegaly.
  Back: No significant deformity, no focal tenderness
  Lungs: CTAB; no crackles or wheezes.
  CV: RRR; no m/r/g
  Abdomen: Soft, NT, ND.
  Extremities: No clubbing, cyanosis, or edema.
  Skin: Warm and dry, no rash or significant lesions.
 NEUROLOGICAL EXAM:
 CN: PERRL, EOMI, sensation intact and symmetric V1/V2/V3, smile
symmetric, shoulder shrug intact, tongue midline, no atrophy
 Motor: strength ___ in all four ext b/l
 *Deep tendon Reflexes:
        Bicip: 2+ Patellar: 2+
 +Fine tremor of outstretched hands.
 Negative for clonus in the BLEs.
 Sensation: to light touch intact in all four ext b/l
 Gait/Romberg: gait wnl, Romberg not assessed

MENTAL STATUS EXAM:
 -Appearance: Age-appearing woman wearing hospital gown,
appropriately groomed, sitting up in chair in NAD.
 -Behavior: Calm and cooperative with interview, makes
appropriate eye contact, answers questions appropriately.
 -Mood and Affect: "Okay", affect excited at times, reactive,
euthymic.
 -Thought process: Linear, goal-directed, no loose associations,
no tangentiality, no circumstantiality.
 -Thought Content: +Passive SI. Denies HI/AVH, does not appear 
to
be responding to internal stimuli, no paranoid or delusional
thoughts elicited on interview.
 -Judgment and Insight: Questionable/Questionable.
   COGNITIVE EXAM:
     *Attention, *orientation, and executive function: Patient
attends to interview without difficulty. Oriented to place, 
date,
and situation. Declines to participate in formal cognitive
assessment.
     *Memory: Intact to recent and remote events on interview.
Declines to participate in formal cognitive assessment.
     *Fund of knowledge: Declines to participate in formal
cognitive assessment.
     *Speech: Verbose, rapid but interruptible speech. Tone is
flat at times. Normal rhythm.
     *Language: Fluent ___ speaker without paraphasia.

 
Pertinent Results:
___ 10:44AM   ___ PTT-28.5 ___
___ 10:44AM   PLT COUNT-169
___ 10:44AM   NEUTS-69.4 ___ MONOS-3.5* EOS-0.6* 
BASOS-0.4 IM ___ AbsNeut-4.81 AbsLymp-1.79 AbsMono-0.24 
AbsEos-0.04 AbsBaso-0.03
___ 10:44AM   WBC-6.9 RBC-4.41 HGB-13.4 HCT-41.1 MCV-93 
MCH-30.4 MCHC-32.6 RDW-13.1 RDWSD-44.6
___ 10:44AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 10:44AM   ALBUMIN-4.6 CALCIUM-9.5 PHOSPHATE-3.4 
MAGNESIUM-1.9
___ 10:44AM   cTropnT-<0.01
___ 10:44AM   LIPASE-36
___ 10:44AM   ALT(SGPT)-12 AST(SGOT)-16 ALK PHOS-45 TOT 
BILI-0.3
___ 10:44AM   estGFR-Using this
___ 10:44AM   GLUCOSE-112* UREA N-7 CREAT-0.7 SODIUM-142 
POTASSIUM-3.9 CHLORIDE-108 TOTAL CO2-21* ANION GAP-13
___ 10:46AM   LACTATE-1.9
___ 01:21PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NORMAL PH-7.0 
LEUK-NEG
___ 01:21PM URINE  COLOR-Colorless APPEAR-CLEAR SP 
___
___ 01:21PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:21PM URINE  UCG-NEG
___ 01:21PM URINE  HOURS-RANDOM
 
Brief Hospital Course:
Brief Hospital Course (Part of discharge summary)

1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission.  She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#)  BPAD, current mixed episode vs. characterological mood 
instability
Upon presenting to the unit patient exhibited a bright affect 
and linear thought process w/o perceptual disturbance or other 
thought disorder. Subsequently her affect changed to dysthymic 
though reactive, and her stated mood was "muted." After 
discussion with patient's outpatient psychiatrist Dr. ___ 
confirmed ___ report of Zoloft trial inducing hypomania 
including impulsivity, hypersexual dressing, not sleeping), 
treatment team increasingly suspected a mixed episode of BPAD 
and began a trial of Seroquel 75mg PO QHS for mood stabilization 
with added nighttime sedating properties, as patient also 
endorsed nighttime flashbacks to past sexual traumas. 
Subsequently patient's affect changed to euphoric w/ laughing 
and smiling uncontrollably, pacing the halls, mood was "on top 
of the world." Pt denied experiencing internal restlessness c/w 
akathisia. Tx team felt her presentation may be c/w mixed 
episode of BPAD; indeed, pt described her experience during this 
hypomania as similar to what she experienced in Dr. ___ 
___ after starting Zoloft. She describes having had these 
euphoric periods in the past for several days at a time followed 
by several days of struggling to get out of bed. An alternative 
explanation for patient's hypomanic-appearing presentation is 
that this is simply a reflection of ___ personality and 
developmental stage (in particular, reflecting possible 
executive dyscontrol). ___ history and presentation were 
ultimately deemed to be suggestive of, but not conclusive for, 
Bipolar Affective Disorder. However, ___ team chose to treat 
empirically with mood stabilizer Seroquel and monitor for sx 
response. By day of discharge, after slowly increasing Seroquel 
dose to 75mg qhs, ___ affect returned to ___ w/o thought 
disorder or perceptual disturbance.

After continued conversation w OP psychiatrist Dr. ___ 
team considered replacing Seroquel with Lamictal (and additional 
Abilify as a bridge until Lamictal levels therapeutic); there 
was concern for weight gain properties of Seroquel. Pt reported 
a remote hx of SJS reaction to Bactrim, so ___ team reached out 
to Dermatology, who ultimately had no comment on whether pt was 
at increased risk for SJS if started on Lamictal. Consequently, 
pt was not started on Lamictal/Abilify. Her Seroquel was 
increased to 100mg QHS by day of discharge with no immediate 
evidence of adverse side effects. 

Patient was evaluated by the ___ Violence Prevention 
after disclosing to ___ team about multiple sexual traumas within 
the last year. They, pt and ___ team worked to find a trauma 
focused outpatient therapist for after discharge. Pt was 
scheduled for an intake appointment at ___ 
Partial ___ Program on ___. Dr, ___ met with pt on ___ 
and she was entirely nonsuicidal; noted much improved by 
multiple staff.

Patient maintained good behavioral control throughout admission.

#) Unspecified Eating Disorder
Patient maintained good PO intake and stable daily weights while 
admitted without evidence of purging or restricting behavior.

#) Unspecified Anxiety Disorder
Pt endorsed a hx of panic attacks in childhood and adolescence. 
Given current presentation ___ team is concerned that these may 
have in fact represented undetected hypomanic/manic episodes. 

#) Recent hx of sexual trauma
Pt reported 2 incidents of sexual trauma in the last year. The 
___ Violence Prevention was consulted and evaluated pt, 
endorsing ___ team plan of coordinating trauma based therapy in 
the outpatient setting. Pt was arranged for an intake 
appointment at ___ Program on 
___ at 8:30am. 

3. SUBSTANCE USE DISORDERS:
#) Pt denied hx of substance use disorders. Endorsed occasional 
marijuana and alcohol use and received counseling on the 
importance of sobriety especially in the setting of psychiatric 
illness.  

4. MEDICAL
#) Pt complained of "a monthslong period" after recent IUD 
placement. Pt was encouraged to follow up with her PCP ___ 
___ at her next appointment (scheduled for pt by ___ team). We 
recommend that Primary Care team follow up with regular A1c and 
weight monitoring given new Seroquel regimen.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills. Patient was supportive and 
sociable on the milieu.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Per ___ Deac 4 Resident Accept Note: 

'Dr. ___, ___
Pt presented to schedule appointment this morning and told him
she took a three week supply of Zoloft and one Olanzapine. She
was tremulous but had no other obvious symptoms. He first saw 
her
1.5 weeks ago when she presented for anxiety and he started her
on Zoloft. Last week, she presented with symptoms concerning for
mania (pacing back and forth in the room, reporting racing
thoughts) and so he discontinued the Zoloft and gave her two
doses of 2.5 mg Olanzapine. When she presented this morning, he
became concerned for her safety and sent her to the ED on a
section. He states pt is  amenable to inpatient stay, which he
recommends.
 
He reports the patient also has an active eating disorder and he
does not think she has been eating very much."'

#) INTERVENTIONS
- Medications: Lorazepam 0.5mg q8h PRN anxiety/insomnia, 
Seroquel 100mg PO QHS
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Dr. ___, ___ 
___ Women's Partial Hospital Program, therapy referrals for ___ 
___ when pt moves there in ___.
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
supportive psychotherapy.
-Guardianships: n/a

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Seroquel, including weight gain/metabolic syndrome and 
rare EPS, and risks and benefits of possible alternatives, 
including not taking the medication, with this patient.   We 
discussed the patient's right to decide whether to take this 
medication as well as the importance of the patient's actively 
participating in the treatment and discussing any questions 
about medications with the treatment team.  The patient appeared 
able to understand and consented to begin the medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon recent suicide 
attempt by overdose and past history of intentional overdose on 
codeine at age ___.  Her static factors noted at that time 
include history of suicide attempts, history of abuse, age, 
single status.  The modifiable risk factors were also addressed 
at that time, and include suicidal ideation with intent/plan, 
hopelessness, recklessness, limited social supports, limited 
coping skills, impulsivity, polarized thinking, and recent 
relationship loss. These were addressed with Occupational 
Therapy Coping Skills groups, social work intervention to 
arrange outpatient therapy, Violence Prevention Group 
involvement to coordinate outpatient trauma-focused treatment. 
Finally, the patient is being discharged with many protective 
risk factors help-seeking nature, future-oriented viewpoint, 
reality testing ability, good problem-solving skills, positive 
therapeutic relationship with outpatient providers, no history 
of substance use disorder.  Thus, I feel the patient does not 
meet section 12a criteria for risk of harm to self/others. 
Overall, the patient is not at an acutely elevated risk of 
self-harm nor danger to others due to acutely decompensated 
psychiatric illness. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. OLANZapine 2.5 mg PO 2X 

 
Discharge Medications:
1.  QUEtiapine Fumarate 100 mg PO QHS bipolar depression 
RX *quetiapine 100 mg 1 tablet(s) by mouth at bedtime Disp #*7 
Tablet Refills:*0 
2.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified affective disorder, mixed episode. Possibly on 
bipolar spectrum.
 
Discharge Condition:
Mental Status: cooperative, pleasant, euthymic mood and affect, 
no evidence of thought disorder or perceptual disturbance.

Level of consciousness: Awake and alert

Ambulatory status: ambulates independently without assistance

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___